US05140026
S-(4-Bromophenyl)-S-methyl-N-(1-pyrrolidinylmethyl)sulfoximine
Following the procedures given for the Mannich reaction in Canadian Patent 1,102,803, the title compound is prepared from S-(4-bromophenyl)-S-methylsulfoximine, pyrrolidine, and 37% formaldehyde solution.

reactant | S-(4-bromophenyl)-S-methylsulfoximine | BrC1=CC=C(C=C1)S(=O)(=N)C | C7H8BrNOS
reactant | pyrrolidine | N1CCCC1 | C4H9N
reactant | formaldehyde | C=O | CH2O
product | S-(4-Bromophenyl)-S-methyl-N-(1-pyrrolidinylmethyl)sulfoximine | BrC1=CC=C(C=C1)S(=O)(=NCN1CCCC1)C | C12H17BrN2OS
